US05618941
1,3-Dibromo-5-(4-fluorophenoxy)benzene
Sodium hydride (3.24 g of 60% suspension in mineral oil was added portionwise to a stirred mixture of 1,3,5-tribromobenzene (76.4 g), 4-fluorophenol (18.16 g), and cuprous oxide (11.6 g) in collidine (400 ml) at room temperature. When evolution of hydrogen had ceased the mixture was heated under reflux with stirring for 8 hours. It was then cooled and filtered. The residue was washed with ethyl acetate followed by concentrated aqueous ammonia, and the combined filtrate and washings were partitioned between ethyl acetate and water. The organic layer was washed twice with brine and evaporated. The residue was dissolved in ethyl acetate, and the solution was filtered, washed several times with citric acid solution and dried (MgSO4). The solvent was evaporated, and the residue was dissolved in hot hexane. The solution was filtered and the filtrate was evaporated. The residue was chromatographed on silica using hexane as eluent to give the title compound as an oil (18.21 g), Rf 0.31(SS 2). Found: C,41.71; H,1.97. C12H7Br2FO requires C,41.66; H,2.04%.

reactant | Sodium hydride | [H-].[Na+]
reactant | 1,3,5-tribromobenzene | 76.4 g | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
reactant | 4-fluorophenol | 18.16 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | hydrogen | [H][H] | H2
solvent | collidine | 400 ml | N1=C(C=C(C=C1C)C)C | C8H11N
product | 1,3-Dibromo-5-(4-fluorophenoxy)benzene | 18.21 g | BrC1=CC(=CC(=C1)OC1=CC=C(C=C1)F)Br | C12H7Br2FO
